US06790850B1
(a) 2-Amino-5-[[(2,3-difluorophenyl)methyl]thio]thiazolo[4,5-d]pyrimidin-7(4H)-one
Potassium t-butoxide solution (0.45 ml of 1M solution in tetrahydrofuran) was added to a stirred solution of 2-amino-5,6-dihydro-5-thioxo-thiazolo[4,5-d]pyrimidin-7(4H)-one (0.09 g) [Cited: Indian J. Chem., Sect. B (1989), 28B(11), 964-5.] and 2,3-difluorobenzyl bromide in dimethyl sulphoxide (2 ml). After stirring for 3 days, the reaction mixture was poured onto water to give and the subtitle compound, isolated by filtration.

reactant | Potassium t-butoxide | 1M, 0.45 ml | CC(C)([O-])C.[K+]
reactant | 2-amino-5,6-dihydro-5-thioxo-thiazolo[4,5-d]pyrimidin-7(4H)-one | 0.09 g | NC=1SC2=C(NC(NC2=O)=S)N1 | C5H4N4OS2
reactant | 2,3-difluorobenzyl bromide | FC1=C(CBr)C=CC=C1F | C7H5BrF2
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
product | 2-Amino-5-[[(2,3-difluorophenyl)methyl]thio]thiazolo[4,5-d]pyrimidin-7(4H)-one | NC=1SC2=C(NC(=NC2=O)SCC2=C(C(=CC=C2)F)F)N1 | C12H8F2N4OS2
